US06576766B1
(d) 3-(3-Diethylphosphono-4-diisopropylphosphonomethoxyphenyl)propionic Acid
3-(3-Diethylphosphono-4-diisopropylphosphonomethoxyphenyl)propionic acid methyl ester (474 mg, 0.96 mmol) in 5 mL THF at 0° C. was added LiOH.H2O (60 mg, 1.43 mmol) in 1 mL H2O. The reaction mixture was stirred at 0° C. for 1 hr. THF was removed in vacuo and 5 mL 1N HCl was added. Aqueous phase was extracted with DCM (8×10 mL). Combined organic was dried over Na2SO4, concentrated to yield crude product 400 mg (yield 87%) as a clear oil. Electrospray mass spectrum: m/z 479.50 (M−H).

reactant | 3-(3-Diethylphosphono-4-diisopropylphosphonomethoxyphenyl)propionic acid methyl ester | 0.96 mmol, 474 mg | COC(CCC1=CC(=C(C=C1)OCP(=O)(OC(C)C)OC(C)C)P(=O)(OCC)OCC)=O | C21H36O9P2
reactant | LiOH.H2O | 1.43 mmol, 60 mg | O[Li].O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | H2O | 1 mL | O | H2O
product | 3-(3-Diethylphosphono-4-diisopropylphosphonomethoxyphenyl)propionic Acid | 400 mg, yield 87% | C(C)OP(=O)(OCC)C=1C=C(C=CC1OCP(=O)(OC(C)C)OC(C)C)CCC(=O)O | C20H34O9P2
